US07888383B2
e) [1-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-indol-3-yl]-acetic acid
To a stirring solution of [1-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-indol-3-yl]-acetic acid methyl ester (440 mg, 1.0 mmol) in 1:1 THF:MeOH (20 ml) at room temperature, is added 1N NaOH aq (5 ml). The reaction mixture is stirred at room temperature for 16 h. The reaction mixture is evaporated in vacuo, diluted with water (10 ml) and acidified to acidic pH with 6N HCl aq. The precipitated product is collected by filtration and recrystallised from 1:3 isopropyl alcohol:water. The product is dried under high vacuum at 50° C.; [M+H]+ 426.

reactant | [1-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-indol-3-yl]-acetic acid methyl ester | 1.0 mmol, 440 mg | COC(CC1=C(N(C2=CC=CC=C12)CC1=C(C=C(C=C1)S(=O)(=O)C)C(F)(F)F)C)=O | C21H20F3NO4S
reactant | THF | C1CCOC1 | C4H8O
reactant | NaOH | 1N, 5 ml | [OH-].[Na+]
solvent | MeOH | 20 ml | CO | CH4O
product | [1-(4-methanesulfonyl-2-trifluoromethyl-benzyl)-2-methyl-1H-indol-3-yl]-acetic acid | CS(=O)(=O)C1=CC(=C(CN2C(=C(C3=CC=CC=C23)CC(=O)O)C)C=C1)C(F)(F)F | C20H18F3NO4S
